US06846835B2
(1-Amidinopiperidin-4-yl)methyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrochloride
To a solution of 14 mg of piperidin-4-ylmethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate in 0.020 ml of anhydrous dimethylformamide, 6.3 mg of 1H-pyrazole-1-carboxamidine hydrochloride and 0.008 ml of diisopropylethylamine were added, followed by stirring at room temperature for 12 hours. The reaction liquid was condensed and dried to solid. Thus obtained crude product was purified on silica gel column chromatography (eluent: chloroform/methanol=10/1), to provide 11 mg of the title compound in the form of a colorless solid.

reactant | piperidin-4-ylmethyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate | 14 mg | FC1(C[C@@H](CC1)[C@](C(=O)OCC1CCNCC1)(C1=CC=CC=C1)O)F | C19H25F2NO3
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 6.3 mg | Cl.N1(N=CC=C1)C(=N)N
reactant | diisopropylethylamine | 0.008 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 0.020 ml | CN(C=O)C | C3H7NO
product | (1-Amidinopiperidin-4-yl)methyl(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-phenylethanoate monohydrochloride | 11 mg | Cl.FC1(C[C@@H](CC1)[C@](C(=O)OCC1CCN(CC1)C(N)=N)(C1=CC=CC=C1)O)F | InChI=1S/C20H27F2N3O3.ClH/c21-19(22)9-6-16(12-19)20(27,15-4-2-1-3-5-15)17(26)28-13-14-7-10-25(11-8-14)18(23)24;/h1-5,14,16,27H,6-13H2,(H3,23,24);1H/t16-,20+;/m1./s1
